US09023847B2
72. 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid (2-benzylamino-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using N-benzylethylenediamine instead of 1-BOC-3-aminopyrrolidine and 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid instead of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid. LCMS (ESI) 392 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.95 (1H, br. s.) 11.66 (1H, br. s.) 8.27 (1H, t, J=5.73 Hz) 8.15 (1H, d, J=5.52 Hz) 7.48 (1H, d, J=5.86 Hz) 7.25-7.39 (6H, m) 7.15-7.24 (1H, m) 6.98 (1H, d, J=5.47 Hz) 6.92 (1H, d, J=0.10 Hz) 6.46 (1H, dd, J=3.42, 1.76 Hz) 3.73 (2H, s) 3.41 (2H, q, J=6.44 Hz) 2.68 (2H, t, J=6.56 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | N-benzylethylenediamine | C(C1=CC=CC=C1)NCCN | C9H14N2
reactant | 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid | N1C=CC=2C1=NC=CC2NC=2SC=CC2C(=O)O | C12H9N3O2S
product | 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid (2-benzylamino-ethyl)-amide | C(C1=CC=CC=C1)NCCNC(=O)C1=C(SC=C1)NC1=C2C(=NC=C1)NC=C2 | C21H21N5OS
